US04952690
2-[(3S,4R)-4-acetylthio-3-methoxy-2-oxoazetidin-1-yl]-3-methylcrotonic acid methyl ester
A solution of 372 mg of 2-[(3S,4R)-4-(benzthiazol-2-yldithio)-3-methoxy-2-oxoazetidin-1-yl]-3-methylcrotonic acid methyl ester in 10 ml of dimethylformamide is cooled to -20°, 10 ml of a solution of 2 g of sodium borohydride in 200 ml of dimethylformamide are added and the mixture is stirrcd at the same temperature for 30 minutes. 5 ml of freshly distilled acetyl bromide are added to the reaction mixture and the mixture is further stirred for 110 minutes at 0°. After adding 150 ml of benzene, the reaction mixture is washed in succession with sodium bicarbonate solution and water, dried over sodium sulphate and concentrated by evaporation in vacuo. The residue yields, after chromatography over silica gel with toluene/ethyl acetate (9:1), the title compound in the form of a slightly yellowish oil.

reactant | 2-[(3S,4R)-4-(benzthiazol-2-yldithio)-3-methoxy-2-oxoazetidin-1-yl]-3-methylcrotonic acid methyl ester | 372 mg | COC(C(=C(C)C)N1C([C@@H]([C@H]1SSC=1SC2=C(N1)C=CC=C2)OC)=O)=O | C17H18N2O4S3
reactant | sodium borohydride | 2 g | [BH4-].[Na+]
reactant | acetyl bromide | C(C)(=O)Br | C2H3BrO
reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | 2-[(3S,4R)-4-acetylthio-3-methoxy-2-oxoazetidin-1-yl]-3-methylcrotonic acid methyl ester | COC(C(=C(C)C)N1C([C@@H]([C@H]1SC(C)=O)OC)=O)=O | C12H17NO5S
